US08022062B2
3-tert-Butoxycarbonyl-6-dimethylcarbamoylthio-7-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Dissolve 6-dimethylcarbamoylthio-7-methyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.048 g, 2.9 mmol) in methanol (40 mL). Add a solution of potassium carbonate (1.6 g, 11.6 mmol) in water (10 mL). Stir at room temperature overnight. Remove the solvent and partition the residue between water and DCM. Extract the aqueous phase twice with DCM. Combine the organic extracts, dry over Na2SO4, filter and concentrate. Dissolve the residue (0.756 g, 2.86 mmol) in DCM (50 mL). Add triethylamine (0.579 g, 0.8 mL, 2.0 equiv) and di-tert-butyl dicarbonate (0.624 g, 2.86 mmol) and stir at room temperature overnight. Dilute with DCM and wash with water. Dry the organic phase over Na2SO4, filter and concentrate to obtain the title compound as foam (1.038 g, 99%). MS (ES+) m/z: 264 (M+H−Boc)+.

reactant | 6-dimethylcarbamoylthio-7-methyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.9 mmol, 1.048 g | CN(C(=O)SC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)C)C | C16H19F3N2O2S
reactant | potassium carbonate | 11.6 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 0.8 mL, 0.579 g, 2.0 equiv | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.86 mmol, 0.624 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-tert-Butoxycarbonyl-6-dimethylcarbamoylthio-7-methyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.038 g, 99% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)C)SC(N(C)C)=O | C19H28N2O3S
